US06048868
EXAMPLE 31 ETCARBO7S: 9-methoxy-1-ethyl-2,3,4,6,7, 1 2-hexahydroindolo[2,3-a]quinolizine-4-thione
Lawesson's reagent (0.5 nimol) is added portionwise, at 110° C., to a solution of 9-metlioxy-1-ethyl-2,3,4,6,7,12-hexahydroindolo[2,3-a]quinoIizin-4-one (300 mg, 1.01 mmol) in anhydrous toluene (15 mL). After refluxing for 30 min. and evaporation of the toluene, the product is chromatographed on silica gel (99/1 chloroform/methanol eluent) and 9-methoxy-1-ethyl-2,3,4,6,7,12-hexahydroindolo[2,3-alquinolizine-4-thione is thus recovered (60% yield).

reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 9-metlioxy-1-ethyl-2,3,4,6,7,12-hexahydroindolo[2,3-a]quinoIizin-4-one | 1.01 mmol, 300 mg | COC=1C=C2C(=CC1)NC1=C2CCN2C(CCC(=C12)CC)=O | C18H20N2O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 9-methoxy-1-ethyl-2,3,4,6,7, 1 2-hexahydroindolo[2,3-a]quinolizine-4-thione | 60% yield | COC=1C=C2C(=CC1)NC1=C2CCN2C(CCC(=C12)CC)=S | C18H20N2OS
